US08629160B2
2-Chloro-1-phenylethanone (57.7 mg, 0.37 mmol) was added to a solution of methyl 2-(1-(6-methoxypyridin-3-yl)-2-oxo-2-((R)-quinuclidin-3-yloxy)ethylamino)benzoate (C80) (159 mg, 0.37 mmol) in EtOAc (3 ml), and the resulting reaction mixture was stirred at room temperature overnight. The solvent was evaporated and the crude was purified first by flash chromatography (DCM/MeOH=97/3 to 9/1), then by preparative HPLC (Eluent: CH3CN/H2O) and finally by flash chromatography (DCM/MeOH=95/5) to obtain (3R)-3-(2-(2-(methoxycarbonyl)phenylamino)-2-(6-methoxypyridin-3-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (21.2 mg, 9.8% yield).

reactant | 2-Chloro-1-phenylethanone | 0.37 mmol, 57.7 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | methyl 2-(1-(6-methoxypyridin-3-yl)-2-oxo-2-((R)-quinuclidin-3-yloxy)ethylamino)benzoate | 0.37 mmol, 159 mg | COC1=CC=C(C=N1)C(C(O[C@H]1CN2CCC1CC2)=O)NC2=C(C(=O)OC)C=CC=C2 | C23H27N3O5
reactant | CH3CN H2O | CC#N.O
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(2-(methoxycarbonyl)phenylamino)-2-(6-methoxypyridin-3-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 21.2 mg, 9.8% yield | [Cl-].COC(=O)C1=C(C=CC=C1)NC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)C=2C=NC(=CC2)OC | InChI=1S/C31H33N3O6.ClH/c1-38-28-13-12-23(18-32-28)29(33-25-11-7-6-10-24(25)30(36)39-2)31(37)40-27-20-34(16-14-22(27)15-17-34)19-26(35)21-8-4-3-5-9-21;/h3-13,18,22,27,29H,14-17,19-20H2,1-2H3;1H/t22?,27-,29?,34?;/m0./s1
